US08497265B2
The mixture of tert-butyl 4-(4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-5-yl)piperidine-1-carboxylate (307 mg, 0.66 mmol) in HCl/MeOH (10 mL, saturated with HCl gas) was stirred at room temperature for 1 hour. Then it was concentrated to give 2-(3-((5-(piperidin-4-yl)pyrimidin-4-yl)oxy)azetidin-1-yl)quinoline hydrochloride which was used in the next step below without further purification.

reactant | tert-butyl 4-(4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-5-yl)piperidine-1-carboxylate | 0.66 mmol, 307 mg | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC1=NC=NC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C26H31N5O3
reactant | HCl MeOH | 10 mL | Cl.CO
product | 2-(3-((5-(piperidin-4-yl)pyrimidin-4-yl)oxy)azetidin-1-yl)quinoline hydrochloride | Cl.N1CCC(CC1)C=1C(=NC=NC1)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C21H23N5O.ClH/c1-2-4-19-16(3-1)5-6-20(25-19)26-12-17(13-26)27-21-18(11-23-14-24-21)15-7-9-22-10-8-15;/h1-6,11,14-15,17,22H,7-10,12-13H2;1H
